US06956031B2
In a solution of 44.7 g of 6,6,7,7,8,8,8-heptafluoro-octylmethanesulfonate in 134 ml of tetrahydrofuran, 41.5 g of methylamine is condensed at −78° C. and stirred for 24 hours at room temperature in a pressurized reactor. Then, it is evaporated to the dry state in a vacuum, washed with water as well as common salt solution, dried on sodium sulfate and evaporated to the dry state in a vacuum. 34.9 g of crude 6,6,7,7,8,8,8-heptafluoro-octyl-methylamine is obtained, and after distillation, 21 g of pure 6,6,7,7,8,8,8-heptafluoro-octyl-methylamine with a boiling point of 89-93° C. at 69 mbar is obtained.

reactant | 6,6,7,7,8,8,8-heptafluoro-octylmethanesulfonate | 44.7 g | FC(CCCCCCS(=O)(=O)[O-])(C(C(F)(F)F)(F)F)F
reactant | methylamine | 41.5 g | CN | CH5N
solvent | tetrahydrofuran | 134 ml | O1CCCC1 | C4H8O
product | 6,6,7,7,8,8,8-heptafluoro-octyl-methylamine | 34.9 g | FC(CCCCCNC)(C(C(F)(F)F)(F)F)F | C9H14F7N
